US07060827B2
In like manner to the preparation of N2,N4-bis(3-hydroxyphenyl)-5-fluoro-2,4-pyrimidinediamine, 2,4-dichloro-5-fluoropyrimidine and 3-chloroaniline were reacted to yield N2,N4-bis(3-chlorophenyl)-5-fluoro-2,4-pyrimidinediamine. 1H NMR (CD3OD): δ 8.08 (d, 1H, J=5.4 Hz), 7.70 (t, 1H, J=1.8 Hz), 7.57 (t, 1H, J=1.2 Hz), 7.54 (m, 1H), 7.35 (m, 4H), 7.28 (t, 1H, J=1.8 Hz), 7.24 (m, 1H), 7.22 (t, 1H, J=1.8 Hz); 19F NMR (CD3OD): −43631; LCMS: ret. time: 28.99 min.; purity: 99%; MS (m/e): 349 (M+).

reactant | 2,4-dichloro-5-fluoropyrimidine | ClC1=NC=C(C(=N1)Cl)F | C4HCl2FN2
reactant | 3-chloroaniline | ClC=1C=C(N)C=CC1 | C6H6ClN
product | N2,N4-bis(3-chlorophenyl)-5-fluoro-2,4-pyrimidinediamine | ClC=1C=C(C=CC1)NC1=NC=C(C(=N1)NC1=CC(=CC=C1)Cl)F | C16H11Cl2FN4
